US08530460B2
N-(1-(4-iodophenyl)ethyl)acetamide
To 8.70 g (35.9 mmol) N-(1-(4-bromophenyl)ethyl)acetamide (III.2) in 100 mL 1,4-dioxane are added 0.69 g (3.62 mmol) CuI, 0.97 mL (9.11 mmol) N,N″-dimethyl-ethylendiamine and 10.8 g (71.9 mmol) NaI. The reaction mixture is stirred at 120° C. for 3 d. The mixture is allowed to cool to r.t. and half of the solvent is removed in vacuo. EtOAc and diluted aq. ammonia solution are added and the layers are separated. The aq. layer is once more extracted with EtOAc. The organic layers are combined, dried with Na2SO4 and the solvent is removed in vacuo. The crude product is triturated with diethylether and dried in vacuo.

reactant | N-(1-(4-bromophenyl)ethyl)acetamide | 35.9 mmol, 8.70 g | BrC1=CC=C(C=C1)C(C)NC(C)=O | C10H12BrNO
reactant | NaI | 71.9 mmol, 10.8 g | [Na+].[I-]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 3.62 mmol, 0.69 g | [Cu]I
product | N-(1-(4-iodophenyl)ethyl)acetamide | IC1=CC=C(C=C1)C(C)NC(C)=O | C10H12INO
